US05359098
6-[6-(4-(2-Hydroxyethyl)piperazinyl)hexoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by the method of Example 3 from 6-hydroxyflavone, 1-bromo-6-chlorohexane, and 4-(2-Hydroxyethyl)piperazine: mp 239°-241° C.

reactant | 6-hydroxyflavone | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | 4-(2-Hydroxyethyl)piperazine | OCCN1CCNCC1 | C6H14N2O
product | 6-[6-(4-(2-Hydroxyethyl)piperazinyl)hexoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride | Cl.OCCN1CCN(CC1)CCCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C1 | InChI=1S/C27H34N2O4.ClH/c30-18-17-29-15-13-28(14-16-29)12-6-1-2-7-19-32-23-10-11-26-24(20-23)25(31)21-27(33-26)22-8-4-3-5-9-22;/h3-5,8-11,20-21,30H,1-2,6-7,12-19H2;1H
